US07691882B2
3-(3-(6-Phenoxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a solution of (2-phenoxy-pyridin-5-yl)-acetohydroximoyl chloride (59.1 mg, 225 μmol) described in Manufacturing Example 40-1-4 and 3-ethynyl-pyridin-2,6-diamine (20.0 mg, 150 μmol) described in Manufacturing Example 13-1-3 in tetrahydrofuran (1.3 mL) was added triethylamine (41.8 μL, 300 μmol) at room temperature, which was stirred for 65 minutes at 50° C. The reaction solution was allowed to room temperature and partitioned into water and ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:methanol=10:1) to obtain the title compound (52 mg, 97%).

reactant | (2-phenoxy-pyridin-5-yl)-acetohydroximoyl chloride | 225 μmol, 59.1 mg | O(C1=CC=CC=C1)C1=NC=C(C=C1)CC(=NO)Cl | C13H11ClN2O2
reactant | 3-ethynyl-pyridin-2,6-diamine | 150 μmol, 20.0 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 300 μmol, 41.8 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1.3 mL | O1CCCC1 | C4H8O
product | 3-(3-(6-Phenoxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 52 mg, 97% | O(C1=CC=CC=C1)C1=CC=C(C=N1)CC1=NOC(=C1)C=1C(=NC(=CC1)N)N | C20H17N5O2
